### PR TITLE
Made binding proof constructive

### PR DESCRIPTION
**Pull request by vbuterin**

### CODE REVIEW

File: VCVio/CryptoFoundations/MerkleTree/Inductive/Binding.lean [hunk 1]
```diff
@@ -61,41 +160,57 @@ def Collision (h : α → α → α) (l₁ r₁ l₂ r₂ : α) : Prop :=
...
+        refine ⟨l₁, r₁, l₂, r₂, ?_⟩
+        unfold findCollision
+        dsimp
+        simp [hpair, hfind]
+      · -- Pairs differ but hash to the same value: top-level collision.
+        refine ⟨proof₁.head, getPutativeRootWithHash idxRight x proof₁.tail h,
+                proof₂.head, getPutativeRootWithHash idxRight y proof₂.tail h, ?_⟩
+        unfold findCollision
+        dsimp
+        simp [hpair, hhash_eq]
```
Comment (alexanderlhicks) [inline VCVio/CryptoFoundations/MerkleTree/Inductive/Binding.lean:215]: It could be useful to add something like the following lemma that bundles both properties together (with an appropriate docstring):

```
lemma getPutativeRootWithHash_binding_collision
    (h : α → α → α) {s : Skeleton} (idx : SkeletonLeafIndex s)
    (proof₁ proof₂ : List.Vector α idx.depth) (x y : α)
    (hne : x ≠ y)
    (heq : getPutativeRootWithHash idx x proof₁ h
         = getPutativeRootWithHash idx y proof₂ h) :
    ∃ l₁ r₁ l₂ r₂,
      findCollision h idx proof₁ proof₂ x y = some (l₁, r₁, l₂, r₂)
        ∧ Collision h l₁ r₁ l₂ r₂ := by
  obtain ⟨l₁, r₁, l₂, r₂, hfind⟩ :=
    getPutativeRootWithHash_binding h idx proof₁ proof₂ x y hne heq
  exact ⟨l₁, r₁, l₂, r₂, hfind,
    findCollision_sound h idx proof₁ proof₂ x y l₁ r₁ l₂ r₂ hfind⟩
```
